US07034039B2
3-(Aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-6-carbonitrile
A mixture of 3-(aminomethyl)-6-bromo-2-isobutyl-4-phenylisoquinolin-1(2H)-one (15.0 g), zinc cyanide (2.74 g), tetrakis(triphenylphosphine)palladium (1.35 g), N-methylpyrrolidone (75 ml) and water (0.75 ml), was stirred under a nitrogen atmosphere at an inner temperature of 54–56° C. To the reaction mixture was added dropwise saturated aqueous ammonium chloride-25% ammonium hydroxide-water (4:1:4, 37.5 ml) over 30 min at the same temperature, and the mixture was stirred for 1 h and below 5° C. for 1 h. The obtained crystals were collected by filtration and suspended in acetonitrile (105 ml). The suspension was dissolved at 80° C. To the obtained solution was added activated carbon (0.75 g) and the mixture was stirred for 10 min. The activated carbon was filtered off and washed with acetonitrile (15 ml). The filtrate was combined and cooled to 25° C. to give crystals. Water (120 ml) was added dropwise and the obtained mixture was cooled to 5° C. and stirred for 1 h. The obtained crystals were collected by filtration to give the title compound (9.6 g, yield 74.5%).

reactant | 3-(aminomethyl)-6-bromo-2-isobutyl-4-phenylisoquinolin-1(2H)-one | 15.0 g | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC(C)C | C20H21BrN2O
reactant | N-methylpyrrolidone | 75 ml | CN1C(CCC1)=O | C5H9NO
reactant | ammonium chloride | 37.5 ml | [Cl-].[NH4+]
catalyst | zinc cyanide | 2.74 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 1.35 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 120 ml | O | H2O
solvent | water | 0.75 ml | O | H2O
product | 3-(Aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-6-carbonitrile | 9.6 g, yield 74.5% | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C#N)=O)CC(C)C | C21H21N3O
